US04808210
1 g of 1-(3,5-dichlorophenyl)-3-chloro-4-methyl-5-pyrazolone, 30 ml of ethyl acetate and 1 g of potassium carbonate were cooled to 0° C. and 0.9 g of 75% m-chloroperbenzoic acid were added. The mixture was stirred for 1 hour at 0° C. and the reaction mixture was poured into ice to which sodium hydrogenosulfite had been added. The mixture was extracted with ethyl acetate and the organic phases were washed with a saturated aqueous solution of sodium bicarbonate, then with a solution of ammonium sulfate, and finally with a saturated aqueous solution of sodium chloride, dried and concentrated to dryness under reduced pressure. The residue was dissolved in hot isopropyl ether and pentane was added. Cooling was carried out to obtain 0.97 g of 1-(3,5-dichlorophenyl)-3-chloro-4-hydroxy-4-methyl-5-pyrazolone.

reactant | 1-(3,5-dichlorophenyl)-3-chloro-4-methyl-5-pyrazolone | 1 g | ClC=1C=C(C=C(C1)Cl)N1NC(=C(C1=O)C)Cl | C10H7Cl3N2O
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
reactant | m-chloroperbenzoic acid | 0.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium | [Na] | Na
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3,5-dichlorophenyl)-3-chloro-4-hydroxy-4-methyl-5-pyrazolone | 0.97 g | ClC=1C=C(C=C(C1)Cl)N1N=C(C(C1=O)(C)O)Cl | C10H7Cl3N2O2
